US07863290B2
0.64 g (9.42 mmol) of imidazole dissolved in 3 ml of dimethylformamide is introduced into a 10 ml three-necked round-bottomed flask. 0.415 g (10.4 mmol) of sodium hydride as a 60% dispersion in oil is then added and the mixture is stirred at room temperature for 1 hour. The mixture is then added to a solution of 5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]oct-3-ene (WO 03/057 697) (0.5 g, 1.89 mmol) in dimethylformamide and the reaction medium is heated at 85° C. for 15 hours and then at 110° C. for 24 hours and the solvent is evaporated off under reduced pressure. The residue is taken up in 10 ml of chloroform and 10 ml of saturated aqueous sodium carbonate solution. The aqueous phase is extracted again with 10 ml of chloroform and the combined organic phases are washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by chromatography on a column of silica gel, eluting with a mixture of chloroform, methanol and aqueous ammonia in 95/5/0.5 proportions. 0.235 g of 5-[2-(−1H-imidazol-1-yl)pyrid-5-yl]-1-azabicyclo[3.2.1]oct-3-ene is obtained and is dissolved in 3 ml of isopropyl alcohol to add 0.327 ml of a 5.7N solution of hydrobromic acid in acetic acid. The crystals formed are collected by filtration and dried under vacuum.

reactant | imidazole | 9.42 mmol, 0.64 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 10.4 mmol, 0.415 g | [H-].[Na+]
reactant | 5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]oct-3-ene | 1.89 mmol, 0.5 g | BrC1=NC=C(C=C1)C12C=CCN(CC1)C2 | C12H13BrN2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-[2-(−1H-imidazol-1-yl)pyrid-5-yl]-1-azabicyclo[3.2.1]oct-3-ene | 0.235 g | N1(C=NC=C1)C1=NC=C(C=C1)C12C=CCN(CC1)C2 | C15H16N4
